US09388195B2
A) Production of methyl 2-[(phenylcarbonyl)amino]prop-2-enoate
To dichloromethane (400 mL) were added methyl serinate hydrochloride (45.0 g) and triethylamine (132 mL), and benzoyl chloride (77.0 mL) was added dropwise. After stirring at room temperature overnight, the reaction system was washed twice with saturated aqueous sodium hydrogen carbonate, and dried over anhydrous sodium sulfate. Insoluble material was removed by filtration, and the filtrate was concentrated under reduced pressure. The residue was dissolved in dichloromethane (300 mL), and 2,3,4,6,7,8,9,10-octahydroprimido[1,2-a]azepine(52.0 g) was added. The mixture was stirred at room temperature for 4 hr, and the reaction system was washed twice with water and saturated aqueous sodium hydrogen carbonate, and dried over anhydrous sodium sulfate. Insoluble material was removed by filtration, and the filtrate was concentrated under reduced pressure to give a crude product (67.0 g) of the title compound as a brown oil.

reactant | dichloromethane | 400 mL | ClCCl | CH2Cl2
reactant | methyl serinate hydrochloride | 45.0 g | Cl.N[C@@H](CO)C(=O)OC
reactant | benzoyl chloride | 77.0 mL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | triethylamine | 132 mL | C(C)N(CC)CC | C6H15N
product | methyl 2-[(phenylcarbonyl)amino]prop-2-enoate | 67.0 g | C1(=CC=CC=C1)C(=O)NC(C(=O)OC)=C | C11H11NO3
